US05843942
A mixture of N-ethyl-N-(2-benzyloxy-5-bromobenzyl)amine hydrochloride salt (87 g), 6-chloropyridazine-3-carboxamide (35 g) and NaHCO3 (41 g) in 1-methyl-2-pyrrolidinone was heated at 115° C. for 24 hours, cooled to 20° C. and added to water (1100 ml) with vigorous stirring, maintaining the temperature below 30° C. with external cooling. Ethyl acetate (725 ml) was added and the mixture stirred at 20° C. for 2 hours. The precipitate was filtered, dried, washed with 40-60 petroleum ether and dried under vacuum at 65° C. to give 6-[N-(2-benzyloxy-5-bromobenzyl)-N-ethylamino]pyridazine-3-carboxamide (83 g, 84.7% yield), mpt. 171°-172° C.

reactant | N-ethyl-N-(2-benzyloxy-5-bromobenzyl)amine hydrochloride salt | 87 g | Cl.C(C)NCC1=C(C=CC(=C1)Br)OCC1=CC=CC=C1
reactant | 6-chloropyridazine-3-carboxamide | 35 g | ClC1=CC=C(N=N1)C(=O)N | C5H4ClN3O
reactant | NaHCO3 | 41 g | C(=O)(O)[O-].[Na+]
reactant | water | 1100 ml | O | H2O
solvent | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
solvent | Ethyl acetate | 725 ml | C(C)(=O)OCC | C4H8O2
product | 6-[N-(2-benzyloxy-5-bromobenzyl)-N-ethylamino]pyridazine-3-carboxamide | 83 g, 84.7% yield | C(C1=CC=CC=C1)OC1=C(CN(CC)C2=CC=C(N=N2)C(=O)N)C=C(C=C1)Br | C21H21BrN4O2
